US06906084B2
(ii) 1H-Indole-2,5-dicarboxylic acid 2-tert-butyl ester 5-methyl ester.
To 13 g 1H-Indole-2,5-dicarboxylic acid 5-methyl ester in 300 ml toluene, 59 ml Di-tert-butoxymethyl-dimethyl-amine were added dropwise at 80° C. Then, the reaction mixture was heated under reflux for additional 6 h. After removal of the solvents under reduced pressure the residue was dissolved in 300 ml DCM and washed with sat. aqueous NaHCO3 solution (2×100 ml). The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by chromatography on silica gel eluting with a n-heptane/ethyl acetate gradient. The fractions containing the product were collected and concentrated under reduced pressure.

reactant | 1H-Indole-2,5-dicarboxylic acid 5-methyl ester | 13 g | COC(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C11H9NO4
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | Di-tert-butoxymethyl-dimethyl-amine | 59 ml | C(C)(C)(C)OC(OC(C)(C)C)N(C)C | C11H25NO2
product | 1H-Indole-2,5-dicarboxylic acid 2-tert-butyl ester 5-methyl ester | COC(=O)C=1C=C2C=C(NC2=CC1)C(=O)OC(C)(C)C | C15H17NO4
